US07208494B2
f) (4R,9aR)-7-Ethoxy-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester
This compound was prepared in analogy to Example 3, intermediate i) from (R)-7-ethoxy-4-methyl-3,4-dihydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester and sodium cyanoborohydride.

reactant | (R)-7-ethoxy-4-methyl-3,4-dihydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC3=CC(=CN=C3N2[C@@H](C1)C)OCC | C18H25N3O3
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
product | (4R,9aR)-7-Ethoxy-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]2CC3=CC(=CN=C3N2[C@@H](C1)C)OCC | C18H27N3O3
